OpenCircuit factory test: BC327-40 output sanity
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://www.onsemi.com/pub/Collateral/BC327-D.PDF
* Revision: Rev. 2, January 2024
* Fit: native ngspice-46 in scipy.optimize.least_squares, diff_step=1e-4
.model OC_ONSEMI_BC327_40 PNP(IS=6.9633401177e-14 NF=1.0000000000e0 BF=5.3770531574e2 IKF=3.0124545975e-1 ISE=3.7004969383e-10 NE=3.9999999982e0 VAF=1.0000000000e2 BR=4.0000000000e0 RB=1.3754494134e1 RE=1.1496912215e-1 RC=3.5052598774e-1 CJE=1.4203367802e-11 VJE=7.5000000000e-1 MJE=3.3000000000e-1 CJC=2.8891881327e-11 VJC=7.5000000000e-1 MJC=3.3000000000e-1 XCJC=1.0000000000e0 TF=1.4673775916e-9 TR=0 FC=0.5 EG=1.11 XTI=3 TNOM=27)

.temp 25
VCE1 c1 0 DC -2
IB1 0 b1 DC -0.00001
Q1 c1 b1 0 OC_ONSEMI_BC327_40
VCE2 c2 0 DC 10
IB2 0 b2 DC 50u
Q2 c2 b2 0 OC_ONSEMI_BC327_40
.op
.end
